US08476434B2
3-(3-(Pyrimidin-4-yl)pyridin-2-ylamino)-4-(trifluoromethyl)benzoic acid (0.13 g, 0.36 mmol), 3-(trifluoromethyl)benzenamine (0.070 g, 0.43 mmol), TBTU (0.14 g, 0.43 mmol), DIPEA (0.13 ml, 0.72 mmol) were all mixed together in a 25 ml flask containing 3 ml of DMF. The mixture was stirred together at room temperature for 16 hours. The reaction was then diluted with an aqueous saturated solution of sodium bicarbonate and extracted with DCM. The organic layer was washed (2×) with an aqueous saturated solution of sodium bicarbonate, then with water and then brine. The organic layer was then dried with sodium sulfate and the purified by column chromatography on silica gel using a gradient of 30 to 80% EtOAc in hexanes to give 3-(3-(pyrimidin-4-yl)pyridin-2-ylamino)-4-(trifluoromethyl)-N-(3-(trifluoromethyl)phenyl)benzamide as an off-white solid. MS m/z=504 [M+1]+. Calc'd for C24H15F6N5O: 503.12.

reactant | 3-(3-(Pyrimidin-4-yl)pyridin-2-ylamino)-4-(trifluoromethyl)benzoic acid | 0.36 mmol, 0.13 g | N1=CN=C(C=C1)C=1C(=NC=CC1)NC=1C=C(C(=O)O)C=CC1C(F)(F)F | C17H11F3N4O2
reactant | 3-(trifluoromethyl)benzenamine | 0.43 mmol, 0.070 g | FC(C=1C=C(C=CC1)N)(F)F | C7H6F3N
reactant | TBTU | 0.43 mmol, 0.14 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | DIPEA | 0.72 mmol, 0.13 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 3-(3-(pyrimidin-4-yl)pyridin-2-ylamino)-4-(trifluoromethyl)-N-(3-(trifluoromethyl)phenyl)benzamide | N1=CN=C(C=C1)C=1C(=NC=CC1)NC=1C=C(C(=O)NC2=CC(=CC=C2)C(F)(F)F)C=CC1C(F)(F)F | C24H15F6N5O
